US08791161B2
N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide)
Following General Procedure F, the title compound was prepared from 2,2′-dithiobis(5-chloroaniline) and 1-benzofuran-2-sulfonyl chloride.

reactant | 2,2′-dithiobis(5-chloroaniline) | ClC=1C=CC(=C(N)C1)SSC1=C(N)C=C(C=C1)Cl | C12H10Cl2N2S2
reactant | 1-benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC1=C(C2)C=CC=C1 | C28H18Cl2N2O6S4
